US08431596B2
5-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
To a suspension of hydroxylamine hydrochloride (22.84 g, 329 mmol) in ethanol/methanol (100 mL/100 mL) was added N,N-diisopropylethylamine (34.4 mL, 197 mmol) and the mixture was stirred at room temperature for 1 h. 1-(6-Bromo-pyridin-2-yl)-3-carboethoxy-thiourea (20 g, 65.75 mmol) was then added and the mixture slowly heated to reflux. After 3 h at reflux the mixture was allowed to cool and filtered to collect the precipitated solid. Further product was collected by evaporation in vacuo of the filtrate, addition of water and filtration. The combined solids were washed successively with water, ethanol/methanol and diethyl ether then dried in vacuo to afford the expected compound as a white solid. No further purification was required. Yield: 12.3 g, 88%; LCMS method: 1, RT: 1.34 min, MI: 213-215 [M+1].

reactant | hydroxylamine hydrochloride | 329 mmol, 22.84 g | Cl.NO
reactant | N,N-diisopropylethylamine | 197 mmol, 34.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(6-Bromo-pyridin-2-yl)-3-carboethoxy-thiourea | 65.75 mmol, 20 g | BrC1=CC=CC(=N1)NC(=S)NC(=O)OCC | C9H10BrN3O2S
solvent | ethanol methanol | 100 mL | C(C)O.CO
product | 5-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | BrC1=CC=CC=2N1N=C(N2)N | C6H5BrN4
